US08541415B2
(4-Amino-phenoxy)-acetonitrile, (5-3)
Cs2CO3 (1629 mg, 5 mmol) was added in one portion to a solution of 4-aminophenol (541 mg, 5 mmol) in acetonitrile (20 mL). The reaction mixture was stirred at room temperature for 30 min and cooled to 0° C. prior to the addition of a solution of bromoacetonitrile (313 μL, 5 mmol) in acetonitrile (10 mL) dropwise. After stirring at room temperature for 48 h (TLC control), the reaction mixture is filtered and the filtrate evaporated to dryness in vacuo. The residue obtained after solvent removal was purified by silica gel column chromatography (hexanes/EtOAc 1:1). The desired product was isolated as yellow-brown oil. Yield: 559 mg, 76%. TLC Rf=0.2 (hexanes/EtOAc 1:1). 1H NMR (CDCl3, 600 MHz): δ 3.56 (br.s, 2H, NH2), 4.66 (s, 2H, CH2), 6.65 (d, J=8.4 Hz, 2H), 6.83 (d, J=8.4 Hz, 2H). 13C NMR (CDCl3, 150 MHz): δ 55.28, 115.60, 116.25, 117.10, 142.42, 149.65. HRMS: Calcd. [M+H]+ m/z 149.0715, Observed 149.0689.

reactant | Cs2CO3 | 5 mmol, 1629 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-aminophenol | 5 mmol, 541 mg | NC1=CC=C(C=C1)O | C6H7NO
reactant | bromoacetonitrile | 5 mmol, 313 μL | BrCC#N | C2H2BrN
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (4-Amino-phenoxy)-acetonitrile | NC1=CC=C(OCC#N)C=C1 | C8H8N2O
